US07732461B2
N-{1-[(3-Chloro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxamide Hydrochloride
To a solution of 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid (for a synthesis see WO2003087098, Example 301(b)) (50 mg, 0.236 mmol), 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (75 mg, 0.236 mmol) and triethylamine (0.066 ml 0.472 mmol) in DMF (2 ml) was added HATU (95 mg, 0.25 mmol) and the reaction was stirred at room temperature for 18 h. The reaction mixture was then evaporated to dryness, kept under high vacuum for 30 minutes, treated with dichloromethane and aqueous sodium bicarbonate solution and stirred vigorously for 30 minutes. The solid was filtered off, washed with water and dichloromethane and dried in vacuo to provide the free base of the title compound (100 mg, 83%).

reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
reactant | 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 0.236 mmol, 75 mg | NC1CCN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl | C16H19ClN4O
reactant | triethylamine | 0.472 mmol, 0.066 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.25 mmol, 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{1-[(3-Chloro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxamide Hydrochloride | 100 mg, 83% | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NC(=O)C=3C=CC=1SCC(NC1N3)=O)=O | InChI=1S/C24H23ClN6O3S.ClH/c25-15-9-26-16-2-4-20(33)31-11-13(21(15)22(16)31)10-30-7-5-14(6-8-30)27-24(34)17-1-3-18-23(28-17)29-19(32)12-35-18;/h1-4,9,13-14H,5-8,10-12H2,(H,27,34)(H,28,29,32);1H
